US08193164B2
Intermediate QF N-{(1S,2R,3S,4R)-4-[2-(4-Amino-pyrazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide
The title compound can be prepared by dissolving N-{(1S,2R,3S,4R)-4-[6-(2,2-diphenylethylamino)-2-(4-nitro-pyrazol-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide (Intermediate QD) in methanol and adding a 2:1 by mass mixture of activated carbon and iron (III) chloride (40 mol % with respect to the substrate), followed by a large excess (100-fold with respect to the substrate) of hydrazine monohydrate. The resulting mixture is stirred at 65° C. for 3 hours, then filtered, before being concentrated under reduced pressure. Trituration of the residue with petroleum ether and subsequent filtration would give the desired product as a colourless solid.

reactant | N-{(1S,2R,3S,4R)-4-[6-(2,2-diphenylethylamino)-2-(4-nitro-pyrazol-1-yl)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | C1(=CC=CC=C1)C(CNC1=C2N=CN(C2=NC(=N1)N1N=CC(=C1)[N+](=O)[O-])[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)C1=CC=CC=C1 | C29H29N9O6
reactant | hydrazine monohydrate | O.NN
solvent | methanol | CO | CH4O
catalyst | iron (III) chloride | [Fe](Cl)(Cl)Cl
product | N-{(1S,2R,3S,4R)-4-[2-(4-Amino-pyrazol-1-yl)-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-2-hydroxy-acetamide | NC=1C=NN(C1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC(CO)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31N9O4
